US03944560
To a stirred solution of 4.92 g. (30 millimoles) of 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin in 100 mls. of benzene is added dropwise a solution of 30 millimoles of anhydrous hydrogen cyanide in 50 ml. of benzene. The reaction mixture is stirred overnight at ambient temperature, basified with 10% sodium carbonate solution and the organic layer separated. The benzene solution is washed once with water and dried successively over anhydrous magnesium sulfate and calcium sulfate. Evaporation of the solvent under reduced pressure at 40° C. yields the crude cyanohydrin which upon purification and mixed melting point determination gives no depression with an authentic sample of 3-hydroxy-3-cyano-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin | 30 millimoles | O=C1COC2=C(OC1)C=CC=C2 | C9H8O3
reactant | hydrogen cyanide | 30 millimoles | C#N | CHN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-hydroxy-3-cyano-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC=C2)C#N | C10H9NO3
